datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1.CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12"
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C@@H](C(C)(C)C)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[C:11](C)=[CH2:10].CSC[C:20](C)=[O:21]>>CSC[C:20](C)([CH2:10][C+:11](C)C(C)C)[O-:21] 10,11=10,20;20,21=21"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC(C)(C)[N:61]1[C:10]([CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)=[N+:71](C)[CH:63]=[CH:62]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"[C:20](=[S:21])=[S:31].[N:10]1=[CH:11][NH:12][CH:62]=[CH:61]1>>[N:10]1([C:20]([S-:21])=[S:31])[CH:11]=[NH+:12][CH:62]=[CH:61]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.CC[O:62]/[C:11](=[CH:10]/[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12]>>CC[O:62][C:11]([CH:10]([C:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:43])=[O:52])[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si:11](C)(CC1=CC=CC(Cl)=C1)[H:10]>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si+:11](C)CC1=CC=CC(Cl)=C1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)[CH2:62][Si:63](Cl)(Cl)Cl)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[O-:12])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].[CH:10]1=[CH:11][CH:12]=[CH:13][NH:14]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]1[CH:11]=[CH:12][CH:13]=[NH+:14]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([C:10](C1=CC=CC=C1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]#[N:82])[O-:21] 10=20;20,21=21"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC[N+](CC)(CC)[BH2-:11][H:10]>>CC(C)(C)[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1.CC[N+](CC)(CC)[BH2:11] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]CC3)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
